US08389717B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-methoxy-6-methyl-[1,3,5]triazin-2-yl)-amine
This compound was prepared from 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine and 2-chloro-4-methoxy-6-methyl-[1,3,5]triazine in analogy to example 1c. It was purified by chromatography on Si—NH2 (Isolute) using ethyl acetate as an eluent to give the title compound as a slightly yellowish solid in 32% yield.

reactant | 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine | COC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3O
reactant | 2-chloro-4-methoxy-6-methyl-[1,3,5]triazine | ClC1=NC(=NC(=N1)OC)C | C5H6ClN3O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-methoxy-6-methyl-[1,3,5]triazin-2-yl)-amine | 32% yield | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC(=NC(=N1)OC)C | C16H18N6O2
